US04604399
A mixture containing 4.88 g of 4-dimethylaminopyridine, 4.28 g of 5-hydroxymethyl-1,6-naphthyridin-2(1H)-one monohydrochloride, 20 ml of triethylamine, 4.5 g of n-hexanoic acid anhydride and 20 ml of acetonitrile was refluxed for about 15 hours, allowed to cool and then chilled. The separated solid was collected and the filtrate was evaporated to dryness. The collected precipitate and the residue obtained by evaporating the filtrate to dryness were combined and taken up in about 250 ml of ether. The ether solution was washed successively with water and 10% aqueous potassium bicarbonate solution. The ether was distilled off in vacuo; and, the residue was recrystallized from methanol and dried to produce 2.8 g of 5-[(n-hexanoyloxy)methyl]-1,6-naphthyridin-2(1H)-one, m.p. 158°-159° C.

reactant | 5-hydroxymethyl-1,6-naphthyridin-2(1H)-one monohydrochloride | 4.28 g | Cl.OCC1=C2C=CC(NC2=CC=N1)=O
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | n-hexanoic acid anhydride | 4.5 g | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
catalyst | 4-dimethylaminopyridine | 4.88 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 5-[(n-hexanoyloxy)methyl]-1,6-naphthyridin-2(1H)-one | 2.8 g | C(CCCCC)(=O)OCC1=C2C=CC(NC2=CC=N1)=O | C15H18N2O3
